US04620938
8 g of acetyl chloride is added to a solution of 30 g of trans-1-p-hydroxyphenyl-4-(trans-4-propylcyclohexyl)-cyclohexane and 20 ml of pyridine in 300 ml of toluene and the mixture is warmed to 80° for 1 hour. After cooling and customary working up, trans-1-p-acetoxyphenyl-4-(trans-4-propylcyclohexyl)-cyclohexane is obtained.

reactant | acetyl chloride | 8 g | C(C)(=O)Cl | C2H3ClO
reactant | trans-1-p-hydroxyphenyl-4-(trans-4-propylcyclohexyl)-cyclohexane | 30 g | OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC | C21H32O
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | trans-1-p-acetoxyphenyl-4-(trans-4-propylcyclohexyl)-cyclohexane | C(C)(=O)OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC | C23H34O2
